US07332508B2
1-Cyclopentyl-4-{3-[5-(4-chlorophenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 3, starting from 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine and 4-chlorobenzoyl chloride.

reactant | 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine | C1(CCCC1)N1CCC(CC1)CCCC(=N)NO | C14H27N3O
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 1-Cyclopentyl-4-{3-[5-(4-chlorophenyl)[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride | Cl.C1(CCCC1)N1CCC(CC1)CCCC1=NOC(=N1)C1=CC=C(C=C1)Cl | InChI=1S/C21H28ClN3O.ClH/c22-18-10-8-17(9-11-18)21-23-20(24-26-21)7-3-4-16-12-14-25(15-13-16)19-5-1-2-6-19;/h8-11,16,19H,1-7,12-15H2;1H
